US06548495B2
2-[3-(4-oxo-7-Pyrrol-1-yl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-phenyl]-oxazole-4-carboxylic Acid Methyl Ester
The title compound was prepared from (2-amino-4-pyrrol-1-yl-phenyl)-carbamic acid tert.-butyl ester (Example J2) (680 mg) and 2-[3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-phenyl]-oxazole-4-carboxylic acid methyl ester (Example L7) (820 mg) according to the general procedure M. The obtained material was deprotected and cyclized by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light yellow solid (770 mg).

reactant | (2-amino-4-pyrrol-1-yl-phenyl)-carbamic acid tert.-butyl ester | 680 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)N1C=CC=C1)N)=O | C15H19N3O2
reactant | 2-[3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-phenyl]-oxazole-4-carboxylic acid methyl ester | 820 mg | COC(=O)C=1N=C(OC1)C1=CC(=CC=C1)C=1OC(OC(C1)=O)(C)C | C17H15NO6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-[3-(4-oxo-7-Pyrrol-1-yl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-phenyl]-oxazole-4-carboxylic Acid Methyl Ester | COC(=O)C=1N=C(OC1)C1=CC(=CC=C1)C=1CC(NC2=C(N1)C=CC(=C2)N2C=CC=C2)=O | C24H18N4O4
